US06331640B1
3-(3-aminobenzoyl)amino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-benzoyl]-L-alanine;
3-(4-aminosulfonylbenzoyl)amino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-dimethylaminobenzoyl)amino-L-alanine;

reactant | 3-(4-aminosulfonylbenzoyl)amino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-L-alanine | NS(=O)(=O)C1=CC=C(C(=O)NC[C@H](NC(C2=C(C=C(C=C2)C(=O)NCC2=CC(=CC=C2)O)Cl)=O)C(=O)O)C=C1 | C25H23ClN4O8S
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-dimethylaminobenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=CC(=CC=C2)N(C)C)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C27H27ClN4O6
product | 3-(3-aminobenzoyl)amino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-benzoyl]-L-alanine | NC=1C=C(C(=O)NC[C@H](NC(C2=C(C=C(C=C2)C(=O)NCC2=CC(=CC=C2)O)Cl)=O)C(=O)O)C=CC1 | C25H23ClN4O6
